US08389509B2
To a suspension of (Z)-methyl 1-(4-(N′-(5-amino-1-phenyl-1H-pyrazole-4-carbonyloxy)carbamimidoyl)benzyl)azetidine-3-carboxylate (102 mg, 0.227 mmol) in EtOH (3 mL) was added sodium acetate (37.3 mg, 0.455 mmol) as a solution in water (1 mL). The mixture was heated to 90° C. for 3 hr. The reaction mixture was transferred to a microwave vial and was then heated to 120° C. for 30 minutes. The reaction mixture was partitioned between EtOAc (30 mL) and water (30 mL). The aqueous layer was extracted with EtOAc (15 mL) and the combined organic layers were dried (MgSO4) and concentrated to afford an oil that was chromatographed on a 12 gm Isco silica gel cartridge, eluting with a 0-100% EtOAc/hexane gradient. The pure fractions were concentrated to afford methyl 1-(4-(5-(5-amino-1-phenyl-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)benzyl)azetidine-3-carboxylate (70 mg, 0.163 mmol) as a colorless oil. HPLC retention time=1.35 (ethyl ester-1.42) minutes (PHENOMENEX® Luna 4.6×30 mm S-5 ODS column) eluting with 10-90% aqueous methanol+0.1% TFA over a 2 minute gradient. MS:(M+H)=431.23 (ethyl ester-445.25). (The product is a mixture of methyl ester and ethyl ester due to partial transesterification during the reaction. The mixture was carried on through the sequence.)

reactant | (Z)-methyl 1-(4-(N′-(5-amino-1-phenyl-1H-pyrazole-4-carbonyloxy)carbamimidoyl)benzyl)azetidine-3-carboxylate | 0.227 mmol, 102 mg | NC1=C(C=NN1C1=CC=CC=C1)C(=O)O\N=C(/N)\C1=CC=C(CN2CC(C2)C(=O)OC)C=C1 | C23H24N6O4
reactant | sodium acetate | 0.455 mmol, 37.3 mg | C(C)(=O)[O-].[Na+]
solvent | EtOH | 3 mL | CCO | C2H6O
solvent | water | 1 mL | O | H2O
product | methyl 1-(4-(5-(5-amino-1-phenyl-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)benzyl)azetidine-3-carboxylate | 0.163 mmol, 70 mg | NC1=C(C=NN1C1=CC=CC=C1)C1=NC(=NO1)C1=CC=C(CN2CC(C2)C(=O)OC)C=C1 | C23H22N6O3
